US05081131
The reaction of 2-methoxyacetyl chloride and 3-(1H-imidazol-1-yl)propanamine in the presence of triethylamine leads to the formation of N-(3-(1H-imidazol-1-yl)propyl)-2-methoxyacetamide, which by reduction with borane gives N-(3-(1H-imidazol-1-yl)propyl)-2-methoxyethylamine. The latter amine reacts with molar equivalents of benz(cd)indol-2-thiol and mercuric acetate in refluxing ethanol, under the conditions of Example 55 to yield the title compound.

reactant | 2-methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | 3-(1H-imidazol-1-yl)propanamine | N1(C=NC=C1)CCCN | C6H11N3
reactant | N-(3-(1H-imidazol-1-yl)propyl)-2-methoxyacetamide | N1(C=NC=C1)CCCNC(COC)=O | C9H15N3O2
reactant | borane | B | BH3
product | N-(3-(1H-imidazol-1-yl)propyl)-2-methoxyethylamine | N1(C=NC=C1)CCCNCCOC | C9H17N3O
